US07071175B1
(f) 3-(6-Amino-5-methyl-pyridin-3-yl)-2-mercaptomethyl-2-methyl-propionic acid
2-Acetylsulfanylmethyl-3-(6-amino-5-methyl-pyridin-3-yl)-2-methyl-propionic acid ethyl ester (17 mg, 40 μmol) was dissolved in conc. HCl (2 mL) under argon. The solution was heated to reflux for 150 min. Concentration under reduced pressure gave the title compound as the hydrochloride salt (10.7 mg, 96%).

reactant | 2-Acetylsulfanylmethyl-3-(6-amino-5-methyl-pyridin-3-yl)-2-methyl-propionic acid ethyl ester | 40 μmol, 17 mg | C(C)OC(C(CC=1C=NC(=C(C1)C)N)(C)CSC(C)=O)=O | C15H22N2O3S
solvent | HCl | 2 mL | Cl | ClH
product | 3-(6-Amino-5-methyl-pyridin-3-yl)-2-mercaptomethyl-2-methyl-propionic acid | NC1=C(C=C(C=N1)CC(C(=O)O)(C)CS)C | C11H16N2O2S
